US08664220B2
Step 2: 1-(4′-{3-Methyl-4-[6-(2H-tetrazol-5-yl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
1-{4′-[4-(6-Cyano-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.046 g, 0.1 mmol) and azidotributyltin(IV) (0.0996 g, 0.3 mmol) were dissolved in dichlorobenzene (1 mL) and heated to 110° C. for 14 hours. After cooling the reaction mixture was directly purified by silica gel chromatography to afford the title compound.

reactant | 1-{4′-[4-(6-Cyano-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.1 mmol, 0.046 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C#N | C28H24N4O3
reactant | azidotributyltin(IV) | 0.3 mmol, 0.0996 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | dichlorobenzene | 1 mL | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 1-(4′-{3-Methyl-4-[6-(2H-tetrazol-5-yl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C=1N=NNN1 | C28H25N7O3
